US05728835
4-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(phenyl)benzamide
Using 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(phenyl)benzamide (503.8 mg, 1.13 mmol) and acetic anhydride (0.128 ml, 1.36 mmol), the procedure of Inventive Example 94 was repeated to obtain 309.9 mg (71.0%) of the title compound in a light brown amorphous form.

reactant | 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(phenyl)benzamide | 1.13 mmol, 503.8 mg | NC1=CC=C(C(=O)N(C2=CC=CC=C2)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C27H28FN3O2
reactant | acetic anhydride | 1.36 mmol, 0.128 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(phenyl)benzamide | 309.9 mg, 71.0% | C(C)(=O)NC1=CC=C(C(=O)N(C2=CC=CC=C2)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C29H30FN3O3
